US05859007
Bromoacetyl bromide (7.8 mL) in methylene chloride (125 mL) is added dropwise to a 0° C. solution of N-Isopropyl-N-(2-methoxy-phenyl) aniline, prepared as in Part A, (14.51 g, 87.9 mmol) in methylene chloride (125 mL) and triethylamine (12.3 mL) and the resultant mixture is allowed to attain RT overnight. After 18 h an additional 2.0 mL of bromoacetyl bromide is added and the resultant reaction mixture stirred at RT for 4 h. The reaction mixture is washed with 1N hydrochloric acid (3×100 mL), water (2×100 mL), brine (100 mL), dried, (MgSO4) and concentrated in vacuo to afford N-Isopropyl-N-(2-methoxy-phenyl) bromoacetamide(20.3 g) as a dark mobile oil which is used without further purification: 1H NMR (300 MHz, CDCl3) δ7.45 (dt, 1H, J=7.8, 1.4), 7.20 (dd, 1H, J=7.8, 1.4), 7.04 (m, 2H), 4.90 (m, 1H, J=6.8), 3.85 (s, 3H), 3.60 (dd, 2H, J=32.9, 11.5), 1.20 (d, 3H, J=6.8), 0.97 (d, 3H, J=6.8).

reactant | Bromoacetyl bromide | 7.8 mL | BrCC(=O)Br | C2H2Br2O
reactant | N-Isopropyl-N-(2-methoxy-phenyl) aniline | C(C)(C)N(C1=CC=CC=C1)C1=C(C=CC=C1)OC | C16H19NO
reactant | triethylamine | 12.3 mL | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 2.0 mL | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-N-(2-methoxy-phenyl) bromoacetamide | 20.3 g | C(C)(C)N(C(CBr)=O)C1=C(C=CC=C1)OC | C12H16BrNO2
